US07795332B2
Preparation of Compound 15: CF3—CFH—O(CF2)3COONH4
Conversion of CF3CF2CF2OCF(CF3)CF2OCF═CF2 to CF3CF2CF2OCF(CF3)CF2OCF2COOCH3 (bp 91-92° C. at 133 mbar) was carried described in U.S. Pat. No. 4,987,254. The ester was reacted with aqueous ammonia and methanol was removed by distillation resulting in CF3CF2CF2OCF(CF3)CF2OCF2COONH4. All structures were confirmed by F-NMR spectra. Due to an isomer content in the vinyl ether, an isomer with the structure CF3CF2CF2OCF2CF(CF3)OCF2COOX (X═CH3, NH4) was found.

reactant | CF3CF2CF2OCF(CF3)CF2OCF═CF2 | C(F)(F)(F)C(F)(F)C(F)(F)OC(F)(C(F)(F)F)C(F)(F)OC(F)=C(F)F | C8F16O2
reactant | CF3CF2CF2OCF(CF3)CF2OCF2COOCH3 | C(F)(F)(F)C(F)(F)C(F)(F)OC(F)(C(F)(F)F)C(F)(F)OC(F)(F)C(=O)OC | C9H3F15O4
reactant | ammonia | N | H3N
reactant | vinyl ether | C(=C)OC=C | C4H6O
solvent | methanol | CO | CH4O
product | CF3—CFH—O(CF2)3COONH4 | C(F)(F)(F)C(F)OC(F)(F)C(F)(F)C(F)(F)C(=O)[O-].[NH4+] | InChI=1S/C6H2F10O3.H3N/c7-1(4(10,11)12)19-6(15,16)5(13,14)3(8,9)2(17)18;/h1H,(H,17,18);1H3
